US04814344
3-(Dimethylamino)-1-(5-fluoro-1-methyl-1H-indol-3-yl)-1-propanone hydrochloride
A solution of 1-(5-fluoro-1-methyl-1H-indol-3-yl)-1-ethanone (0.9 g) in ethanol (60 ml) containing paraformaldehyde (0.45 g) and dimethylamine hydrochloride (1.2 g) was heated at reflux for 18 h, cooled, and the solvent was evaporated in vacuo. The residue was partitioned between sodium carbonate (2N; 100 ml) and ethyl acetate (2×100 ml). The combined organic extracts were dried and evaporated in vacuo to give an oil, which was purified by FCC eluting with System A to give the free base of the title compound as an oil (0.55 g). A sample (0.1 g) was dissolved in absolute ethanol (5 ml) acidified with ethanolic hydrogen chloride, and the salt was precipitated by the addition of dry ether (ca. 150 ml). The salt was filtered off, and dried in vacuo to give the title compound (0.1 g), m.p. 184°-185°.

reactant | 1-(5-fluoro-1-methyl-1H-indol-3-yl)-1-ethanone | 0.9 g | FC=1C=C2C(=CN(C2=CC1)C)C(C)=O | C11H10FNO
reactant | paraformaldehyde | 0.45 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 1.2 g | Cl.CNC
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(Dimethylamino)-1-(5-fluoro-1-methyl-1H-indol-3-yl)-1-propanone hydrochloride | 0.55 g | Cl.CN(CCC(=O)C1=CN(C2=CC=C(C=C12)F)C)C | InChI=1S/C14H17FN2O.ClH/c1-16(2)7-6-14(18)12-9-17(3)13-5-4-10(15)8-11(12)13;/h4-5,8-9H,6-7H2,1-3H3;1H
